US04751304
5,6-Dimethoxy-4-methyl-2(1H)-quinazolinone hydrochloride (4.26 g) was dissolved in water (500 mL) and 30% aqueous sodium hydroxide was added to adjust the pH to 7. The precipitate was collected to give 5,6-dimethoxy-4-methyl-2(1H)-quinazolinone as a yellow crystalline solid, mp 248°-249° C.

reactant | 5,6-Dimethoxy-4-methyl-2(1H)-quinazolinone hydrochloride | 4.26 g | Cl.COC1=C2C(=NC(NC2=CC=C1OC)=O)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 500 mL | O | H2O
product | 5,6-dimethoxy-4-methyl-2(1H)-quinazolinone | COC1=C2C(=NC(NC2=CC=C1OC)=O)C | C11H12N2O3
